US05945382
29.0 g (0.200 mol) of 6-chloro-2-fluorotoluene are dissolved, with stirring, in 200 ml of dry THF. After cooling to -70° C., 151.0 ml (0.24 mol) of n-butyllithium in solution in hexane are added dropwise. After 2 hours, the reaction mixture maintained at -70° C. is poured onto solid carbon dioxide. After returning to room temperature, an aqueous ammonium chloride solution is added. The aqueous phase is extracted with ether, acidified with 6N hydrochloric acid and extracted with ether. The organic phases are dried over magnesium sulphate and concentrated to dryness. The residue is washed with heptane to give 9.0 g (0.048 mol) of 4-chloro-2-fluoro-3-methylbenzoic acid in the form of a white powder (yield: 24%; melting point: 198° C.).

reactant | 6-chloro-2-fluorotoluene | 0.200 mol, 29.0 g | ClC1=CC=CC(=C1C)F | C7H6ClF
reactant | n-butyllithium | 0.24 mol, 151.0 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-chloro-2-fluoro-3-methylbenzoic acid | 0.048 mol, 9.0 g, yield: 24% | ClC1=C(C(=C(C(=O)O)C=C1)F)C | C8H6ClFO2
